US07977331B1
To a solution of methyl 12-cyclohexyl-6-dimethylcarbamoyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (100 mg, 0.22 mmol) in tetrahydrofuran (1 ml) and methanol (1 ml) was added 4N aqueous sodium hydroxide solution (1 ml), and the mixture was stirred at room temperature for 18 hr. 1N Hydrochloric acid was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (chloroform:methanol=30:1-20:1) to give 12-cyclohexyl-6-dimethylcarbamoyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid (9 mg, yield 9.4%).

reactant | methyl 12-cyclohexyl-6-dimethylcarbamoyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 0.22 mmol, 100 mg | C1(CCCCC1)C=1C2=C(N3CC(OC4=C(C13)C=CC=C4)C(N(C)C)=O)C=C(C=C2)C(=O)OC | C27H30N2O4
reactant | sodium hydroxide | 4N, 1 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
product | 12-cyclohexyl-6-dimethylcarbamoyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid | 9 mg, yield 9.4% | C1(CCCCC1)C=1C2=C(N3CC(OC4=C(C13)C=CC=C4)C(N(C)C)=O)C=C(C=C2)C(=O)O | C26H28N2O4
